US07396847B2
Methanesulfonic acid 3-(4-bromo-3-fluoro-phenyl)4,5-dihydro-isoxazol-5ylmethyl ester
[3-(4-Bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-yl]-methanol (30 g, 112.4 mmol) was added to anhydrous dichloromethane (300 ml) followed by addition of triethylamine (21.8 ml, 157.3 mmol). The solution was cooled to 0° C. followed by drop wise addition of methane sulfonyl chloride (10.4 ml, 134.8 mmol). The reaction was stirred for 2 hours at 0° C. and then aqueous sodium bicarbonate (100 ml) was added. After further extraction with dichloromethane (2×100 ml), the organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to give the desired product (38.7 g).

reactant | [3-(4-Bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-yl]-methanol | 112.4 mmol, 30 g | BrC1=C(C=C(C=C1)C1=NOC(C1)CO)F | C10H9BrFNO2
reactant | triethylamine | 157.3 mmol, 21.8 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 134.8 mmol, 10.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid 3-(4-bromo-3-fluoro-phenyl)4,5-dihydro-isoxazol-5ylmethyl ester | 38.7 g | BrC1=C(C=C(C=C1)C1=NOC(C1)COS(=O)(=O)C)F | C11H11BrFNO4S
